US04686230
4.5 g (25 mmol) of 3-methoxy-2-methyl-4-nitropyridine 1-oxide are stirred at 40° C. in 75 ml of dry methanol, after addition of 4.7 ml of 30% strength sodium methylate solution, for 16 hours. The mixture is then cooled, brought to pH 7 with concentrated sulphuric acid, filtered and concentrated completely in vacuo, the oily, reddish residue is taken up in 50 ml of toluene, the mixture is filtered again to remove insoluble constituents and the filtrate is concentrated to dryness. The yellow oily residue crystallises in an ice-bath and is finally extracted by stirring with 30 ml of petroleum ether (50/70) at 40° C. Filtration and drying in a desiccator gives 5.2 g (88% of theory) of 3,4-dimethoxy-2-methylpyridine 1-oxide in the form of pale yellow crystals of m.p. 111°-113° C.

reactant | 3-methoxy-2-methyl-4-nitropyridine 1-oxide | 25 mmol, 4.5 g | COC=1C(=[N+](C=CC1[N+](=O)[O-])[O-])C | C7H8N2O4
reactant | sodium methylate | C[O-].[Na+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 75 ml | CO | CH4O
product | 3,4-dimethoxy-2-methylpyridine 1-oxide | 5.2 g, 88% | COC=1C(=[N+](C=CC1OC)[O-])C | C8H11NO3
